US05374454
A KAn solution is prepared as described in Example 20. The monoglyme is allowed to evaporate and the solid potassium anthracide complex collected. The melting point of the potassium anthracide crystals is >300° C. The dark-blue crystals turn white on exposure to air as a result of the radical-anion oxidation. Potassium anthracene salt is added to a solution of anhydrous NMP to give a 0.05M anthracene radical-anion solution resulting in the characteristic deep blue-black coloration of the solution. The KAn is stable in NMP. A sample of PTFE is treated in this bath and Pd seeded and electroless Cu subsequently plated as described in Example 17 with similar results.

reactant | monoglyme | C(OC)COC | C4H10O2
reactant | Potassium anthracene salt | C1=CC=CC2=CC3=CC=CC=C3C=C12.[K]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | anthracene | 0.05M | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
